US06004478
Preparation of 4'-(trans-4-n-pentyl-4-silacyclohexyl)-3-fluoro-4-(2,2,3,3,3-pentafluoro-n-propoxy)biphenyl
The general procedure of Example 17 was repeated using 4'-bromo-3-fluoro-4-(t-butyldimethylsiloxy)biphenyl, 4-pentyl-4-phenyl-4-silacyclohexanone, and 1-bromo-2,2,3,3,3-pentafluoro-n-propane, thereby obtaining the intended compound.

reactant | 4'-bromo-3-fluoro-4-(t-butyldimethylsiloxy)biphenyl | BrC1=CC=C(C=C1)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)F | C18H22BrFOSi
reactant | 4-pentyl-4-phenyl-4-silacyclohexanone | C(CCCC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C16H24OSi
reactant | 1-bromo-2,2,3,3,3-pentafluoro-n-propane | BrCC(C(F)(F)F)(F)F | C3H2BrF5
product | 4'-(trans-4-n-pentyl-4-silacyclohexyl)-3-fluoro-4-(2,2,3,3,3-pentafluoro-n-propoxy)biphenyl | C(CCCC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)OCC(C(F)(F)F)(F)F)F | C25H30F6OSi
